US09169254B2
A solution of sodium ethoxide (15.7 mg, 0.033 mmol) in ethanol (0.1 ml) was added to a solution of 3-[1-(4-bromo-3,5-dimethyl-phenyl)-ureido]-propionic acid ethyl ester (11.4 mg, 0.033 mmol) in ethanol (0.9 ml), and the mixture was stirred at room temperature for 24 hours. The mixture was adjusted to pH 4 with 1 N hydrochloric acid and then extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give 1-(4-bromo-3,5-dimethyl-phenyl)-dihydro-pyrimidine-2,4-dione (9.8 mg, 99%).

reactant | sodium ethoxide | 0.033 mmol, 15.7 mg | [O-]CC.[Na+]
reactant | 3-[1-(4-bromo-3,5-dimethyl-phenyl)-ureido]-propionic acid ethyl ester | 0.033 mmol, 11.4 mg | C(C)OC(CCN(C(=O)N)C1=CC(=C(C(=C1)C)Br)C)=O | C14H19BrN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 0.1 ml | C(C)O | C2H6O
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
product | 1-(4-bromo-3,5-dimethyl-phenyl)-dihydro-pyrimidine-2,4-dione | 9.8 mg, 99% | BrC1=C(C=C(C=C1C)N1C(NC(CC1)=O)=O)C | C12H13BrN2O2
